US07501425B1
3-(3,5-Dimethoxy-phenyl)-1-ethyl-7-[3-(4-methyl-piperazin-1-yl)-propylamino]-3,4-dihydro-pyrimido [4,5-d]pyrimidin-2(1H)-one
Using the general procedure above, 3-(3,5-dimethoxy-phenyl)-1-ethyl-7-methanesulfinyl-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one and 0.1142 g (0.726 mmol) of 3-(4-methyl-piperazin-1-yl)-propylamine were reacted. The residue was chromatographed over silica gel, eluting with ethyl acetate/ethanol/triethylamine (9:2:1 v/v/v), to give 0.0712 g (57%) of the title compound: HPLC=96% pure.

reactant | 3-(3,5-dimethoxy-phenyl)-1-ethyl-7-methanesulfinyl-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | COC=1C=C(C=C(C1)OC)N1C(N(C2=NC(=NC=C2C1)S(=O)C)CC)=O | C17H20N4O4S
reactant | 3-(4-methyl-piperazin-1-yl)-propylamine | 0.726 mmol, 0.1142 g | CN1CCN(CC1)CCCN | C8H19N3
product | 3-(3,5-Dimethoxy-phenyl)-1-ethyl-7-[3-(4-methyl-piperazin-1-yl)-propylamino]-3,4-dihydro-pyrimido [4,5-d]pyrimidin-2(1H)-one | 0.0712 g, 57% | COC=1C=C(C=C(C1)OC)N1C(N(C2=NC(=NC=C2C1)NCCCN1CCN(CC1)C)CC)=O | C24H35N7O3
